### PR TITLE
[Merged by Bors] - feat(Data/List/Sigma): grind annotations, some missing API

### PR DESCRIPTION
**Pull request by chenson2018**
- `grind` annotations for `List.keys`,  `List.NodupKeys`, and `List.lookup`, with some shortening of proofs
- upstream `keys_append`, `sublist_dlookup`, and `nodupKeys_middle` from https://github.com/leanprover/cslib/pull/68

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Sigma.lean [hunk 1]
```diff
@@ -46,30 +46,31 @@ def keys : List (Sigma β) → List α :=
...
 theorem exists_of_mem_keys {a} {l : List (Sigma β)} (h : a ∈ l.keys) :
-    ∃ b : β a, Sigma.mk a b ∈ l :=
-  let ⟨⟨_, b'⟩, m, e⟩ := exists_of_mem_map h
-  Eq.recOn e (Exists.intro b' m)
+    ∃ b : β a, Sigma.mk a b ∈ l := by
+  have := exists_of_mem_map h
+  grind
 
-theorem mem_keys {a} {l : List (Sigma β)} : a ∈ l.keys ↔ ∃ b : β a, Sigma.mk a b ∈ l :=
-  ⟨exists_of_mem_keys, fun ⟨_, h⟩ => mem_keys_of_mem h⟩
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sigma.lean:62]: I'd argue this previous proof was bettter, since it makes it clear what the lemmas names of the separate directions are

File: Mathlib/Data/List/Sigma.lean [hunk 2]
```diff
@@ -78,15 +79,15 @@ alias not_eq_key := ne_key
...
+@[grind]
 def NodupKeys (l : List (Sigma β)) : Prop :=
   l.keys.Nodup
 
 theorem nodupKeys_iff_pairwise {l} : NodupKeys l ↔ Pairwise (fun s s' : Sigma β => s.1 ≠ s'.1) l :=
   pairwise_map
 
 theorem NodupKeys.pairwise_ne {l} (h : NodupKeys l) :
-    Pairwise (fun s s' : Sigma β => s.1 ≠ s'.1) l :=
-  nodupKeys_iff_pairwise.1 h
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sigma.lean:89]: Similarly this proof was better as it indicates this is one direction of the other lemma.

File: Mathlib/Data/List/Sigma.lean [hunk 3]
```diff
@@ -96,16 +97,19 @@ theorem nodupKeys_nil : @NodupKeys α β [] :=
...
-  (nodupKeys_cons.1 h).1
+    s.1 ∉ l.keys := by grind
 
 @[deprecated (since := "2025-05-23")]
 alias not_mem_keys_of_nodupKeys_cons := notMem_keys_of_nodupKeys_cons
 
 theorem nodupKeys_of_nodupKeys_cons {s : Sigma β} {l : List (Sigma β)} (h : NodupKeys (s :: l)) :
-    NodupKeys l :=
-  (nodupKeys_cons.1 h).2
+    NodupKeys l := by grind
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sigma.lean:116]: No need for grind here

**Comment by chenson2018** [comment]
I have reverted the proofs mentioned in your above comments. I can see the argument for how writing some terms directly conveys extra information that is more valuable than always aiming for brevity with `grind`.

**Comment by chenson2018** [comment]
After discussion with @chrisflav who advised against some additional `def`s I had planned for a follow-up PR, I went ahead and pushed the last of the additions I had for this file.

File: Mathlib/Data/List/Sigma.lean [hunk 4]
```diff
@@ -42,34 +42,35 @@ variable {α : Type u} {α' : Type u'} {β : α → Type v} {β' : α' → Type
...
 
 theorem exists_of_mem_keys {a} {l : List (Sigma β)} (h : a ∈ l.keys) :
-    ∃ b : β a, Sigma.mk a b ∈ l :=
-  let ⟨⟨_, b'⟩, m, e⟩ := exists_of_mem_map h
-  Eq.recOn e (Exists.intro b' m)
+    ∃ b : β a, Sigma.mk a b ∈ l := by
+  have := exists_of_mem_map h
+  grind
 
 theorem mem_keys {a} {l : List (Sigma β)} : a ∈ l.keys ↔ ∃ b : β a, Sigma.mk a b ∈ l :=
```
Comment (kim-em) [inline Mathlib/Data/List/Sigma.lean:66]: Add `@[grind =]`?

File: Mathlib/Data/List/Sigma.lean [hunk 5]
```diff
@@ -42,34 +42,35 @@ variable {α : Type u} {α' : Type u'} {β : α → Type v} {β' : α' → Type
...
+@[simp, grind =]
 theorem keys_nil : @keys α β [] = [] :=
   rfl
 
-@[simp]
+@[simp, grind =]
 theorem keys_cons {s} {l : List (Sigma β)} : (s :: l).keys = s.1 :: l.keys :=
   rfl
 
+theorem keys_append : (l₁ ++ l₂).keys = l₁.keys ++ l₂.keys := by
```
Comment (kim-em) [inline Mathlib/Data/List/Sigma.lean:54]: Seems reasonable as both a `simp` and `grind =` lemma.

File: Mathlib/Data/List/Sigma.lean [hunk 6]
```diff
@@ -96,9 +98,13 @@ theorem nodupKeys_nil : @NodupKeys α β [] :=
 theorem nodupKeys_cons {s : Sigma β} {l : List (Sigma β)} :
     NodupKeys (s :: l) ↔ s.1 ∉ l.keys ∧ NodupKeys l := by simp [keys, NodupKeys]
 
+@[grind =]
```
Comment (kim-em) [inline Mathlib/Data/List/Sigma.lean]: Seems unlikely to be useful? Maybe only add the annotation locally.

File: Mathlib/Data/List/Sigma.lean [hunk 7]
```diff
@@ -153,53 +159,44 @@ def dlookup (a : α) : List (Sigma β) → Option (β a)
...
   | ⟨_, _⟩, h => dif_neg h.symm
 
-theorem dlookup_isSome {a : α} : ∀ {l : List (Sigma β)}, (dlookup a l).isSome ↔ a ∈ l.keys
-  | [] => by simp
-  | ⟨a', b⟩ :: l => by
-    by_cases h : a = a'
-    · subst a'
-      simp
-    · simp [h, dlookup_isSome]
+@[grind _=_]
```
Comment (kim-em) [inline Mathlib/Data/List/Sigma.lean]: The reverse direction seems like a bad idea?

File: Mathlib/Data/List/Sigma.lean [hunk 8]
```diff
@@ -211,30 +208,57 @@ theorem perm_dlookup (a : α) {l₁ l₂ : List (Sigma β)} (nd₁ : l₁.NodupK
...
+theorem map₂_keys {β β' : α → Type*} (f : (a : α) → β a → β' a) (l : List (Σ a, β a)) :
+    (l.map (.map id f)).keys = l.keys := by
+  induction l <;> grind [Sigma.map]
+
+omit [DecidableEq α] in
+theorem NodupKeys.map₂ {β β' : α → Type*} (f : (a : α) → β a → β' a) (l : List (Σ a, β a))
+    (nd : l.NodupKeys) : (l.map (.map id f)).NodupKeys := by
+  simp_all [NodupKeys, map₂_keys]
+
+theorem dlookup_append (l₁ l₂ : List (Sigma β)) (a : α) :
```
Comment (kim-em) [inline Mathlib/Data/List/Sigma.lean:254]: `@[simp, grind =]`?

**Comment by chenson2018** [comment]
@kim-em Thanks for the review! We actually use most of your suggested annotations a lot already, so I am glad you pointed them out to include here.

**Comment by kim-em** [comment]
bors merge
